US07935669B2
a) Synthesis of 3-[2-(dimethylamino)ethoxy]-1-(2,6,6-trimethyl-2-cyclohexen-1-yl)-1-butanone
A solution of α-damascone (6.44 g; 33.5 mmol), N,N-dimethylaminoethanol (30.25 ml; 301 mmol) and tetramethylguanidine (TMG) (0.77 g; 6.70 mmol) was heated at 70° C. for 15 h. Afterward, the excess of N,N-dimethylaminoethanol was distilled at ca. 60° C./10 to 2 mbar. The crude product was diluted in diethyl ether (Et2O) and this mixture was extracted with 5% aqueous HCl and washed with water and saturated aqueous NaCl. The combined aqueous phases were basified using aqueous NaOH and extracted twice with ether to recover the crude product in the organic phases. The organic phases were still washed with water and brine, then dried over Na2SO4 and concentrated. Bulb-to-bulb distillation of the crude product (100-125° C./0.05 mbar) afforded 2.94 g of the desired pure product (yield: 32%).

reactant | α-damascone | 33.5 mmol, 6.44 g | C/C=C/C(=O)C1C(=CCCC1(C)C)C | C13H20O
reactant | N,N-dimethylaminoethanol | 301 mmol, 30.25 ml | CN(C)CCO | C4H11NO
reactant | tetramethylguanidine | 6.70 mmol, 0.77 g | CN(C(N(C)C)=N)C | C5H13N3
product | 3-[2-(dimethylamino)ethoxy]-1-(2,6,6-trimethyl-2-cyclohexen-1-yl)-1-butanone | yield: 32% | CN(CCOC(CC(=O)C1C(=CCCC1(C)C)C)C)C | C17H31NO2
